US06306895B1
25% HCl was added dropwise to sodium salt of benzenesulfinic acid (5 g, 30.5 mmol) until the solid dissolved. The reaction mixture was extracted with EtOAc, dried over Na2SO4 and concentrated to give benzenesulfinic acid (3.9 g, 90%). To an ice-cold mixture of benzene sulfinic acid (1.8 g, 12.4 mmol) and CaCl2 (1.4 g, 12.5 mmol) in dry methylene chloride (50 ml) was added dropwise a solution of (6S)-7-(4-fluorophenoxy)-6-hydroxyheptanal (2 g, 8.3 mmol) in methylene chloride (10 ml). The reaction mixture was stirred for 3 hours and filtered through celite, and washed with methylene chloride. The combined organic layer was washed with saturated aqueous Na2CO3, water, brine and dried over Na2SO4. Solvent was removed under reduced pressure and the residue was purified by silica gel chromatography using EtOAC-hexane (1:6) as eluent to give (2RS,7S)-2-(benzenesulfonyl)-7-(4-fluorophenoxymethyl)oxepane (2.45 g, 80.8%); 1H-NMR (CDCl3, 200 Hz): δ 1.39-2.20 (m, 7H), 2.5 (m, 1H), 3.57-3.90 (m, 2H), 4.45 (m, 1H), 4.72 (dd, J=6.6, 12.0 Hz, 1H), 6.57-7.00 (m, 4H), 7.36-7.96 (m, 5H).

reactant | benzene sulfinic acid | 12.4 mmol, 1.8 g | C1(=CC=CC=C1)S(=O)O | C6H6O2S
reactant | CaCl2 | 12.5 mmol, 1.4 g | [Cl-].[Cl-].[Ca+2]
reactant | (6S)-7-(4-fluorophenoxy)-6-hydroxyheptanal | 8.3 mmol, 2 g | FC1=CC=C(OC[C@H](CCCCC=O)O)C=C1 | C13H17FO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (2RS,7S)-2-(benzenesulfonyl)-7-(4-fluorophenoxymethyl)oxepane | 2.45 g, 80.8% | C1(=CC=CC=C1)S(=O)(=O)C1O[C@@H](CCCC1)COC1=CC=C(C=C1)F | C19H21FO4S
